US04234579
Benzyl 6,6-Dibromopenicillanate
To a solution of 54 g. (0.165 mole) of 6,6-dibromopenicillanic acid in 350 ml. of N,N-dimethylacetamide was added 22.9 ml. (0.165 mole) of triethylamine and the solution was stirred for 40 minutes. Benzyl bromide (19.6 ml., 0.165 mole) was added and the resulting mixture was stirred at room temperature for 48 hours. The precipitated triethylamine hydrobromide was filtered off, and the filtrate was added to 1,500 ml. of ice-water, adjusted to pH 2. The mixture was extracted with ether, and the extracts were washed successively with saturated sodium bicarbonate, water and brine. The dried (MgSO4) ether solution was evaporated in vacuo to give an off-white solid, which was recrystallized from isopropanol. This afforded 70.0 g. (95% yield) of the title compound m.p. 75°-76° C. The IR spectrum (KBr disc) showed absorptions at 1795 and 1740 cm-1. The NMR spectrum (CDC13) showed absorptions at 1.53 (s,3H), 1.58 (s,3H), 4.50 (s,1H), 5.13 (s,2H), 5.72 (s,1H) and 7.37 (s,5H)ppm.

reactant | 6,6-dibromopenicillanic acid | 0.165 mole | CC1([C@@H](N2[C@H](S1)C(C2=O)(Br)Br)C(=O)O)C | C8H9Br2NO3S
reactant | triethylamine | 0.165 mole | C(C)N(CC)CC | C6H15N
reactant | Benzyl bromide | 0.165 mole, 19.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | Benzyl 6,6-Dibromopenicillanate | 95% yield | CC1([C@@H](N2[C@H](S1)C(C2=O)(Br)Br)C(=O)OCC3=CC=CC=C3)C | C15H15Br2NO3S
